US06927228B2
250 mg (0.45 mmol) of N-[6-benzyloxy-4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methyloctanamide, 4 ml of acetonitrile and 130 mg (0.65 mmol) of iodotrimethylsilane are introduced into a round-bottomed flask under a stream of nitrogen. The reaction medium is heated, at 50° C. for 3 hours. At room temperature, 450 μl of 1N hydrochloric acid and 450 μl of tetrabutylammonium fluoride are added. The medium is then diluted with ethyl acetate and washed with sodium thiosulfate solution. After separation of the phases once settling has taken place, the organic phase is dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with an ethyl acetate/heptane mixture (6/4). 150 mg (72%) of N-[4′-(2,4-dioxo-thiazolidin-5-ylmethyl)-6-hydroxybiphenyl-3-ylmethyl]-N-methyloctanamide are obtained in the form of a yellowish foam.

reactant | N-[6-benzyloxy-4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methyloctanamide | 0.45 mmol, 250 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1C1=CC=C(C=C1)CC1C(NC(S1)=O)=O)CN(C(CCCCCCC)=O)C | C33H38N2O4S
reactant | iodotrimethylsilane | 0.65 mmol, 130 mg | I[Si](C)(C)C | C3H9ISi
reactant | hydrochloric acid | 1N, 450 μl | Cl | ClH
reactant | tetrabutylammonium fluoride | 450 μl | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | N-[4′-(2,4-dioxo-thiazolidin-5-ylmethyl)-6-hydroxybiphenyl-3-ylmethyl]-N-methyloctanamide | 150 mg, 72% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1O)CN(C(CCCCCCC)=O)C | C26H32N2O4S
